US06660735B2
A solution of the compound of Example 47, 1-[2-(2-aminoethoxy)ethyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine (980 mg, 2.98 mmol) in 20 mL of CH2Cl2 was treated with triethylamine (1.04 mL, 7.45 mmol) and chilled in an ice water bath. With vigorous stirring, the solution was treated with 4-morpholinecarbonyl chloride (0.365 mL, 3.13 mmol). After 18 h, the reaction was treated with 25 mL CH2Cl2 and 25 mL water and the layers were separated. The organic portion was washed with 1% Na2CO3 solution, water and brine. The organic portion was then dried over Na2SO4, filtered and concentrated to yield a yellow foam. Purification by column chromatography (SiO2, 95:5:0.5 CHCl3:MeOH:NH4OH) gave 393 mg of N-(2-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy} ethyl)morpholine-4-carboxamide as a yellow solid.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.98 mmol, 980 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C17H23N5O2
reactant | triethylamine | 7.45 mmol, 1.04 mL | C(C)N(CC)CC | C6H15N
reactant | 4-morpholinecarbonyl chloride | 3.13 mmol, 0.365 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | water | 25 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{2-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy} ethyl)morpholine-4-carboxamide | 393 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(=O)N2CCOCC2)COCC | C22H30N6O4
